US06627629B2
Part B. Preparation of (3R,4S)-4-[(R)-1-phenyl-ethylamino]-tetrahydrothiophene-3-carboxylic acid methyl ester
A solution of crude (R)-4-(1-Phenyl-ethylamino)-2,5-dihydrothiophene-3-carboxylic acid methyl ester (2.82 g, ca. 9.1 mmol) was dissolved in trifluoroacetic acid (50 mL) and treated with triethylsilane (4.4 mL, 27.4 mmol). The mixture was stirred for 20 h , when TLC indicated residual starting material. Additional triethylsilane (1.5 mL) was added and the mixture was heated at reflux for 3 h , then was cooled and concentrated. The residue was dissolved in water and adjusted to pH 10 with 50% sodium hydroxide. The mixture was extracted with ether, and the combined organic phases were dried (Na2SO4) and concentrated. The residue was purified by flash column chromatography (15-30% diethyl ether/petroleum ether) to provide the product as a colorless oil (673 mg, 28%). 1H NMR (300 mHz, CDCl3) δ7.33 (m, 4H), 7.27 (m, 1H), 3.84 (q, J=6.6 Hz, 1H), 3.73 (s, 3H), 3.61 (m, 1H), 3.1-3.0 (m, 3H), 2.80 (dd, J=11.0, 5.8 Hz, 1H), 2.54 (dd, J=11.0, 6.6 Hz, 1H), 1.37 (d, J=6.6 Hz, 3H), ESI MS: (M+H)+=266.1.

reactant | (R)-4-(1-Phenyl-ethylamino)-2,5-dihydrothiophene-3-carboxylic acid methyl ester | ca. 9.1 mmol, 2.82 g | COC(=O)C=1CSCC1N[C@H](C)C1=CC=CC=C1 | C14H17NO2S
reactant | triethylsilane | 27.4 mmol, 4.4 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylsilane | 1.5 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (3R,4S)-4-[(R)-1-phenyl-ethylamino]-tetrahydrothiophene-3-carboxylic acid methyl ester | 673 mg, 28% | COC(=O)[C@@H]1CSC[C@H]1N[C@H](C)C1=CC=CC=C1 | C14H19NO2S
